US06448266B1
Ethyl 3-[1-benzyloxy-3-(isoamyloxycarbonyl)cyclobutan-3-yl]-3-hydroxypropionate
A 11.37 g (29.12 mmol) portion of ethyl 3-[1-benzyloxy-3-(isoamyloxycarbonyl)cyclobutan-3-yl]-3-oxopropionate was dissolved in 100 ml of methanol to which, while cooling in an ice bath and stirring, was subsequently added 441 mg (11.65 mmol) of sodium tetrahydroborate. After 10 minutes of stirring at the same temperature, to this was gradually added saturated ammonium chloride aqueous solution. After evaporation of methanol under a reduced pressure, ethyl acetate was added to the thus obtained residue to effect separation of layers. The resulting organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under a reduced pressure to give 11.41 g (29.07 mmol) of the title compound. The thus obtained compound was used in the following reaction without purification.

reactant | ethyl 3-[1-benzyloxy-3-(isoamyloxycarbonyl)cyclobutan-3-yl]-3-oxopropionate | C(C1=CC=CC=C1)OC1CC(C1)(C(=O)OCCC(C)C)C(CC(=O)OCC)=O | C22H30O6
reactant | sodium tetrahydroborate | 11.65 mmol, 441 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 100 ml | CO | CH4O
product | Ethyl 3-[1-benzyloxy-3-(isoamyloxycarbonyl)cyclobutan-3-yl]-3-hydroxypropionate | 29.07 mmol, 11.41 g | C(C1=CC=CC=C1)OC1CC(C1)(C(=O)OCCC(C)C)C(CC(=O)OCC)O | C22H32O6
